US04129655
To the stirred solution of 4.0 g of 2-[2-(4-hydroxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan in 50 ml of anhydrous tetrahydrofuran is added 9.5 ml of 1.6 N n-butyl lithium in hexane at 0°. After warming the mixture up to room temperature, the solution of 1.5 ml of pivaloyl chloride in 10 ml of tetrahydrofuran is added while stirring and the whole is refluxed for 24 hours. After cooling 10 ml of saturated aqueous ammonium chloride are added, followed by 200 ml of diethyl ether. The organic layer is separated, washed with water, dried evaporated and the residue dissolved in isopropanol. The solution is made acidic with 6N ethanolic hydrogen chloride and the precipitate collected, to yield the 2-[2-(4-pivaloyloxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan hydrochloride melting at 195°-200° with decomposition.

reactant | 2-[2-(4-hydroxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan | 4.0 g | OC1(CCN(CC1)CCC1COC2=C(O1)C=CC=C2)C2=CC=CC=C2 | C21H25NO3
reactant | n-butyl lithium | 1.6 N, 9.5 ml | C(CCC)[Li]
reactant | pivaloyl chloride | 1.5 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-[2-(4-pivaloyloxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan hydrochloride | Cl.C(C(C)(C)C)(=O)OC1(CCN(CC1)CCC1COC2=C(O1)C=CC=C2)C2=CC=CC=C2 | InChI=1S/C26H33NO4.ClH/c1-25(2,3)24(28)31-26(20-9-5-4-6-10-20)14-17-27(18-15-26)16-13-21-19-29-22-11-7-8-12-23(22)30-21;/h4-12,21H,13-19H2,1-3H3;1H
